US05599587
2-(2-aminoethoxy)-2-oxo-1,3,2-dioxaphospholane was dissolved in acetonitrile (20 ml) and added to trimethylamine (14.3 ml) in a glass pressure bottle stored in liquid nitrogen. The pressure bottle was closed, allowed to warm to ambient temperature over 0.5 hour and was then warmed to 60° C. for 16 hours. A pale yellow gum was deposited during this time. Excess trimethylamine was bubbled off and the supernatant decanted. The gum was dissolved in methanol, preabsorbed onto silica gel and purified by chromatography on silica gel eluting with methanol and methanol/25% aqueous ammonia mixtures. 2-[(2-Aminoethoxyhydroxyphosphinyl)oxy]-N,N,N-trimethylethanaminium hydroxide, inner salt was obtained as a pale yellow foam.

reactant | 2-(2-aminoethoxy)-2-oxo-1,3,2-dioxaphospholane | NCCOP1(OCCO1)=O | C4H10NO4P
reactant | trimethylamine | 14.3 ml | CN(C)C | C3H9N
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[(2-Aminoethoxyhydroxyphosphinyl)oxy]-N,N,N-trimethylethanaminium hydroxide | [OH-].NCCOP(=O)(OCC[N+](C)(C)C)O | InChI=1S/C7H19N2O4P.H2O/c1-9(2,3)5-7-13-14(10,11)12-6-4-8;/h4-8H2,1-3H3;1H2
